US05182386
A mixture of 2-chloroquinoxaline (1.65 g, 10 mmol), potassium fluoride (1.16 g, 20 mmol) and dry dimethyl sulfoxide (10 mL) was heated with stirring for 4 h. After cooling to room temperature the mixture was filtered through silica gel with 10% ether/hexane as the eluent to afford 2-fluoroquinoxaline as a colorless oil.

reactant | 2-chloroquinoxaline | 10 mmol, 1.65 g | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | potassium fluoride | 20 mmol, 1.16 g | [F-].[K+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2-fluoroquinoxaline | FC1=NC2=CC=CC=C2N=C1 | C8H5FN2
